US07547697B2
(1SR,8RS)-5-tert-Butyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
off-white crystalline solid. MS (EI): 245.2 (M+). Prepared from bicyclo[2.2.1]heptane-2,3-dione, (3,3-dimethyl-2-oxo-butyl)-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptane-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | (3,3-dimethyl-2-oxo-butyl)-phosphonic acid dimethyl ester | COP(OC)(=O)CC(C(C)(C)C)=O | C8H17O4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-tert-Butyl-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | C(C)(C)(C)C1=NN=C2C3CCC(C2=C1)C3 | C13H18N2
